US09024044B2
Step 5. Synthesis of 5-(2-benzyloxycarbonylbutyl)thiophene-2-carboxylic acid tert-butyl ester
2-(5-tert-Butoxycarbonylthiophen-2-yl)methyl-butanoic acid (20.6 g, 72.2 mmol) was dissolved in N,N-dimethylformamide (100 mL), potassium carbonate (10.4 g, 75.3 mmol) and benzyl bromide (13.0 g, 76.0 mmol) were added, and the mixture was stirred at room temperature overnight. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. 0.5 N-Hydrochloric acid solution and ethyl acetate were added to the obtained residue, the organic layer was extracted, and the aqueous layer was extracted three times with ethyl acetate. The organic layers were collected, washed with brine, and dried over anhydrous magnesium sulfate. After filtration, the solvent of the filtrate was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound (27.0 g, 72.1 mmol, 96%).

reactant | 2-(5-tert-Butoxycarbonylthiophen-2-yl)methyl-butanoic acid | 72.2 mmol, 20.6 g | C(C)(C)(C)OC(=O)C1=CC=C(S1)CC(C(=O)O)CC | C14H20O4S
reactant | potassium carbonate | 75.3 mmol, 10.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 76.0 mmol, 13.0 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 5-(2-benzyloxycarbonylbutyl)thiophene-2-carboxylic acid tert-butyl ester | 72.1 mmol, 27.0 g, 96% | C(C)(C)(C)OC(=O)C=1SC(=CC1)CC(CC)C(=O)OCC1=CC=CC=C1 | C21H26O4S
